US04421690
To a solution of 311 mL of 1.6 M ethereal methyllithium (0.498 mol) of 0° was added dropwise 11.16 g (0.066 mol) of ethyl 2,2-difluoro-4-hydroxybutanoate in 150 mL of ether. The mixture was stirred at 0° C. for 1 hr and at 25° C. for 17 hr. The mixture was quenched by adding 14 mL of saturated brine at 0° C. The mixture was poured into saturated brine and the product was isolated with ether. The ether layers were dried over anhydrous magnesium sulfate, filtered, and evaporated to dryness. The residue was chromatographed on 0.06-0.20 mm of silica gel to give 4-methyl-3,3-difluoro-1,4-pentanediol. NMR (CDCl3) δ3.84 (triplet, 2, J=6 Hz), 2.75 (broad, OH), 2.22 (multiplet, 2), and 1.31 ppm (triplet, 6, J=1 Hz).

reactant | methyllithium | 0.498 mol, 1.6 M, 311 mL | C[Li]
reactant | ethyl 2,2-difluoro-4-hydroxybutanoate | 0.066 mol, 11.16 g | FC(C(=O)OCC)(CCO)F | C6H10F2O3
reactant | ether | 150 mL | CCOCC | C4H10O
product | 4-methyl-3,3-difluoro-1,4-pentanediol | CC(C(CCO)(F)F)(C)O | C6H12F2O2
